US07820704B2
t-Butylbromoacetate (1.45 mL, 10 mmol) was added to 2-aminomethyl thiophene (1.13 g. 10.0 mmol) and DIEA (2.0 ml) in THF (20 mL). The mixture was warmed to room temperature (4 h), diluted with ether (100 mL) and washed with water (20 mL), brine (20 mL), dried (MgSO4), filtered and evaporated in vacuum. The product was purified by column chromatography eluting with 10-25% EtOAc in hexane to give [(thiophen-2-ylmethyl)-amino]-acetic acid tert-butyl ester (1.2 g). LCMS m/z: 229 (M+1)+.

reactant | t-Butylbromoacetate | 10 mmol, 1.45 mL | C(C)(C)(C)OC(CBr)=O | C6H11BrO2
reactant | 2-aminomethyl thiophene | 10.0 mmol, 1.13 g | NCC=1SC=CC1 | C5H7NS
reactant | DIEA | 2.0 ml | CCN(C(C)C)C(C)C | C8H19N
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | ether | 100 mL | CCOCC | C4H10O
product | [(thiophen-2-ylmethyl)-amino]-acetic acid tert-butyl ester | 1.2 g | C(C)(C)(C)OC(CNCC=1SC=CC1)=O | C11H17NO2S
